US05116863
Methyl 11-(3-dimethylaminopropylidene)-6,11-dihydrodibenz[b,e]oxepin-2-carboxylate (Compound 1)
In this Example, 45 g of (3-dimethylaminopropyl)triphenylphosphonium bromide hydrobromide is suspended in 200 ml of tetrahydrofuran under a nitrogen atmosphere and 82 ml of 1.6N-n-butyl lithium hexane solution is added thereto under ice-cooling. The mixture is stirred under ice-cooling for one hour. To the mixture is dropwise added under ice-cooling a solution obtained by dissolving 10 g of methyl 11-oxo-6,11-dihydrodibenz[b,e]oxepin-2-carboxylate in 200 ml of tetrahydrofuran. After stirring the mixture at room temperature for 2 hours, the mixture is extracted with 800 ml of ethyl acetate. After washing the extract with saturated aqueous sodium chloride solution and drying the extract over anhydrous sodium sulfate, the solvent is distilled away under reduced pressure. The residue is purified by column chromatography on silica gel (eluent: hexane:ethyl acetate:triethylamine=10:10:1) to obtain 2.0 g of trans form and 5.6 g of cis form of the desired product.

reactant | (3-dimethylaminopropyl)triphenylphosphonium bromide hydrobromide | 45 g | Br.[Br-].CN(CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | n-butyl lithium hexane | CCCCCC.C(CCC)[Li]
reactant | methyl 11-oxo-6,11-dihydrodibenz[b,e]oxepin-2-carboxylate | 10 g | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)OC | C16H12O4
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | Methyl 11-(3-dimethylaminopropylidene)-6,11-dihydrodibenz[b,e]oxepin-2-carboxylate | CN(CCC=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)OC)C | C21H23NO3
